US04105790
Methyl bromoacetate was reacted with 2-methoxy-4-acetylphenol to give methyl 2-methoxy-4-acetylphenoxyacetate by the same procedure as was used to make isopropyl 4-acetylphenoxyacetate.

reactant | Methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
reactant | 2-methoxy-4-acetylphenol | COC1=C(C=CC(=C1)C(C)=O)O | C9H10O3
product | methyl 2-methoxy-4-acetylphenoxyacetate | COC1=C(OCC(=O)OC)C=CC(=C1)C(C)=O | C12H14O5
